.circuit
R1 6 5 50
R2 1 2 20
R3 GND 3 30
R4 5 7 40
R5 3 4 50
V1 1 GND ac 4 30
V3 6 1 ac 5 45
V2 2 GND ac 6 60
V4 5 4 ac 10 90
I1 2 5 ac 5 60
I2 4 7 ac 15 15
I3 4 3 ac 10 30
.end
.ac V1 50
.ac V2 50
.ac V3 50
.ac V4 50
.ac I1 50
.ac I2 50
.ac I3 50